US04447435
7-Bromo-4-hydroxyquinoline was reacted with formaldehyde in aqueous sodium hydroxide to give the novel compound 7-bromo-4-hydroxy-3-hydroxymethylquinoline, m.p. >300°

reactant | 7-Bromo-4-hydroxyquinoline | BrC1=CC=C2C(=CC=NC2=C1)O | C9H6BrNO
reactant | formaldehyde | C=O | CH2O
solvent | sodium hydroxide | [OH-].[Na+]
product | 7-bromo-4-hydroxy-3-hydroxymethylquinoline | BrC1=CC=C2C(=C(C=NC2=C1)CO)O | C10H8BrNO2
